US07482375B2
1-Bromo-2-butanone (1.51 g, 10 mmol) was added to a solution of 4-hydroxybenzonitrile (1.19 g, 10 mmol) and caesium carbonate (3.25 g, 10 mmol), in acetone (50 ml). The reaction mixture was then heated at 60° C. for 2 hours. After cooling, it was concentrated under reduced pressure. Water (25 ml) was added and the mixture was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with brine, dried over magnesium sulphate, filtered and concentrated under reduced pressure to give crude 4-(2-oxobutoxy)benzonitrile intermediate (1.83 g) (9.6 mmol). Ethyl formate (407 mg, 5.5 mmol) was added to a solution of the crude intermediate (945 mg, 5 mmol) in ethanol (5 ml). The reaction mixture was then cooled to 0° C. and sodium ethoxide (21% wt solution in ethanol, 1.78 ml, 5.5 mmol) was added dropwise over 2 minutes at 0° C. under nitrogen. The reaction mixture was then warmed to room temperature and stirred for 18 hours, after which time 0.5N hydrochloric acid (25 ml) was added and the mixture was extracted with diethyl ether (2×50 ml). The combined organic layers were washed with brine, dried over magnesium sulphate and concentrated under reduced pressure to provide crude 4-(1-formyl-2-oxobutoxy)benzonitrile (820 mg, 3.78 mmol). This intermediate was then dissolved in acetic acid (10 ml), and then hydrazine hydrate (320 mg, 6.4 mmol) was added. The reaction mixture was stirred at room temperature for 2 hours, under nitrogen. It was then concentrated under reduced pressure, and the residue was purified by flash chromatography on silica gel, eluting with ethyl acetate:pentane (30:70 to 40:60, by volume), to provide the title compound (118 mg, 15%) as a solid.

reactant | 1-Bromo-2-butanone | 10 mmol, 1.51 g | BrCC(CC)=O | C4H7BrO
reactant | 4-hydroxybenzonitrile | 10 mmol, 1.19 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | caesium carbonate | 10 mmol, 3.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(2-oxobutoxy)benzonitrile | 9.6 mmol, 1.83 g | O=C(COC1=CC=C(C#N)C=C1)CC | C11H11NO2
